Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=C1c2ccccc2C(=O)[N:1]1[CH2:2][CH2:3][CH2:4][NH:5][c:6]1[cH:7][cH:8][c:9](-[c:10]2[cH:11][c:12](=[O:13])[c:14]3[c:15]([NH2:16])[c:17]([F:18])[cH:19][c:20]([F:21])[c:22]3[o:23]2)[cH:24][c:25]1[F:26]>>[NH2:1][CH2:2][CH2:3][CH2:4][NH:5][c:6]1[cH:7][cH:8][c:9](-[c:10]2[cH:11][c:12](=[O:13])[c:14]3[c:15]([NH2:16])[c:17]([F:18])[cH:19][c:20]([F:21])[c:22]3[o:23]2)[cH:24][c:25]1[F:26],[O:201]=[C:102]1[c:202]2cccc[c:204]2[C:101](=[O:203])[N:1]1[CH2:2][CH2:3][CH2:4][NH:5][c:6]1[cH:7][cH:8][c:9](-[c:10]2[cH:11][c:12](=[O:13])[c:14]3[c:15]([NH2:16])[c:17]([F:18])[cH:19][c:20]([F:21])[c:22]3[o:23]2)[cH:24][c:25]1[F:26].[NH2:301][NH2:302]>>[NH2:1][CH2:2][CH2:3][CH2:4][NH:5][c:6]1[cH:7][cH:8][c:9](-[c:10]2[cH:11][c:12](=[O:13])[c:14]3[c:15]([NH2:16])[c:17]([F:18])[cH:19][c:20]([F:21])[c:22]3[o:23]2)[cH:24][c:25]1[F:26],Ing_Manske,"[(301, 102), ([102, 201], 201), (201, [201, 102]), ([102, 1], 1), (1, 301.1), ([301.1, 301], 301), (302, 101), ([101, 203], 203), (1, 302.1), ([302.1, 302], 302), (203, [203, 101]), ([101, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[Mg+][CH2:1][CH3:2].[O:3]=[CH:4][CH2:5][CH2:6][CH2:7][CH2:8][CH:9]1[CH:10]=[CH:11][CH2:12][CH2:13]1>>[CH2:1]([CH3:2])[CH:4]([OH:3])[CH2:5][CH2:6][CH2:7][CH2:8][CH:9]1[CH:10]=[CH:11][CH2:12][CH2:13]1,[O:3]=[CH:4][CH2:5][CH2:6][CH2:7][CH2:8][CH:9]1[CH:10]=[CH:11][CH2:12][CH2:13]1.[Mg+:101][CH2:1][CH3:2].[OH2:301]>>[CH2:1]([CH3:2])[CH:4]([OH:3])[CH2:5][CH2:6][CH2:7][CH2:8][CH:9]1[CH:10]=[CH:11][CH2:12][CH2:13]1,Grignard,"[([101, 1], 4), ([4, 3], 101), (301, 101), ([101, 3], 3), (3, 301.1), ([301.1, 301], 301)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[N:1]#[C:2][C@H:3]([OH:4])[C@H:5]([CH2:6][c:7]1[cH:12][cH:11][cH:10][cH:9][cH:8]1)[N:13]([CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[CH2:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[NH2:1][CH2:2][C@@H:3]([OH:4])[C@H:5]([CH2:6][c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)[N:13]([CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[CH2:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,[N:1]#[C:2][C@H:3]([OH:4])[C@H:5]([CH2:6][c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)[N:13]([CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[CH2:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[Li+:301].[AlH4-:302].[OH2:303].[OH2:304]>>[NH2:1][CH2:2][C@@H:3]([OH:4])[C@H:5]([CH2:6][c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)[N:13]([CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[CH2:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,nitrile_reduction,"[([302, 302.1], 2), ([2, 1], 301), ([302, 302.1], 2), ([2, 1], 302), ([301, 1], 303.1), ([303.1, 303], 303), ([302, 1], 304.1), ([304.1, 304], 304)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
BrC(Br)([Br:1])Br.O[CH2:2][CH2:3][CH2:4][c:5]1[cH:6][cH:7][c:8]([C:9]([O:10][CH2:11][CH3:12])=[O:13])[cH:14][cH:15]1>>[Br:1][CH2:2][CH2:3][CH2:4][c:5]1[cH:6][cH:7][c:8]([C:9]([O:10][CH2:11][CH3:12])=[O:13])[cH:14][cH:15]1,[OH:101][CH2:2][CH2:3][CH2:4][c:5]1[cH:6][cH:7][c:8]([C:9]([O:10][CH2:11][CH3:12])=[O:13])[cH:14][cH:15]1.Br[C:102](Br)(Br)[Br:1].c1ccccc1[P:301](c2ccccc2)c3ccccc3>>[Br:1][CH2:2][CH2:3][CH2:4][c:5]1[cH:6][cH:7][c:8]([C:9]([O:10][CH2:11][CH3:12])=[O:13])[cH:14][cH:15]1,Appel,"[(301, 1), ([1, 102], 102), (102, 101.1), ([101.1, 101], 101), (101, 301), ([301, 1], 1), (1, 2), ([2, 101], [101, 301])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[CH2:1][c:2]1[cH:3][n:4][n:5]([CH:6]2[CH2:7][CH2:8][N:9]([C:10]([O:11][CH:12]([CH3:13])[CH3:14])=[O:15])[CH2:16][CH2:17]2)[c:18]1[C:19]#[N:20].[OH:21][c:22]1[cH:23][cH:24][c:25]([Br:26])[cH:27][c:28]1[F:29]>>[CH2:1]([c:2]1[cH:3][n:4][n:5]([CH:6]2[CH2:7][CH2:8][N:9]([C:10]([O:11][CH:12]([CH3:13])[CH3:14])=[O:15])[CH2:16][CH2:17]2)[c:18]1[C:19]#[N:20])[O:21][c:22]1[cH:23][cH:24][c:25]([Br:26])[cH:27][c:28]1[F:29],[OH:101][CH2:1][c:2]1[cH:3][n:4][n:5]([CH:6]2[CH2:7][CH2:8][N:9]([C:10]([O:11][CH:12]([CH3:13])[CH3:14])=[O:15])[CH2:16][CH2:17]2)[c:18]1[C:19]#[N:20].[OH:21][c:22]1[cH:23][cH:24][c:25]([Br:26])[cH:27][c:28]1[F:29].c1ccccc1[P:301](c2ccccc2)c3ccccc3.[O:302]=[C:303]([N:304]=[N:305]C(=O)OCC)OCC>>[CH2:1]([c:2]1[cH:3][n:4][n:5]([CH:6]2[CH2:7][CH2:8][N:9]([C:10]([O:11][CH:12]([CH3:13])[CH3:14])=[O:15])[CH2:16][CH2:17]2)[c:18]1[C:19]#[N:20])[O:21][c:22]1[cH:23][cH:24][c:25]([Br:26])[cH:27][c:28]1[F:29],Mitsunobu,"[(301, 305), ([305, 304], 304), (304, [304, 303]), ([303, 302], 302), (302, [302, 303]), ([303, 304], 21.1), ([21.1, 21], 21), (101, 301), ([301, 305], 305), (305, 101.1), ([101.1, 101], 101), (21, 1), ([1, 101], [101, 301])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
